US06849639B2
3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}-N-(phenylsulfonyl)-3-(3-pyridyl)propanamide
A suspension of 3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoic acid (60 mg, 0.11 mmol), benzenesulfonamide (Aldrich, 18 mg, 0.11 mmol), 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloride (22 mg, 0.11 mmol), and dimethyl-4-pyridylamine (Aldrich, 0.22 mmol) in CH2Cl2 (5 mL) was stirred at room temperature for 2 days. A white solid was filtered and further purified by preparative HPLC. The title compound was obtained as a white solid. MS (ES+): 643 (M+H)+; (ES−): 641 (M−H)−.

reactant | 3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoic acid | 0.11 mmol, 60 mg | O=C1CC(CN1C1=CC(=CC=C1)NC(=O)NCC1=CC=CC=C1)C(=O)NC(CC(=O)O)C=1C=NC=CC1 | C27H27N5O5
reactant | benzenesulfonamide | 0.11 mmol, 18 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloride | 0.11 mmol, 22 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | dimethyl-4-pyridylamine | 0.22 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}-N-(phenylsulfonyl)-3-(3-pyridyl)propanamide | O=C1CC(CN1C1=CC(=CC=C1)NC(=O)NCC1=CC=CC=C1)C(=O)NC(CC(=O)NS(=O)(=O)C1=CC=CC=C1)C=1C=NC=CC1 | C33H32N6O6S
